US07842685B2
A solution of 3,3-difluorocyclobutanecarboxylic acid (542.6 mg, 3.99 mmol) in thionyl chloride (5.24 mL, 71.8 mmol) was heated at 70° C. for 1 h and then concentrated in vacuo. 2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)thiazolo[5,4-b]pyridine (1.08 g, 2.254 mmol) was added to the residue, and the mixture was taken up in toluene (20.0 mL) and stirred under argon at 80° C. for 16 h. The reaction mixture was then concentrated onto silica gel and chromatographically purified (0-60% EtOAc/hexanes) to provide (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)(3,3-difluorocyclobutyl)methanone as an off-white solid. MS (ESI) m/z: Calculated: 434.1; Observed: 435.0 (M++1).

reactant | 3,3-difluorocyclobutanecarboxylic acid | 3.99 mmol, 542.6 mg | FC1(CC(C1)C(=O)O)F | C5H6F2O2
reactant | thionyl chloride | 71.8 mmol, 5.24 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)-5-(trimethylstannyl)thiazolo[5,4-b]pyridine | 2.254 mmol, 1.08 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)[Sn](C)(C)C)F
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)(3,3-difluorocyclobutyl)methanone | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=O)C1CC(C1)(F)F)F | C21H17F3N2O3S
